US07276531B2
Ethyl (2E)-2-methylhex-2-enoate
Valeraldehyde (2.5 g, 29.02 mmol) and (carbethoxyethylidene)triphenyl phosphorane (12.54 g, 34.83 mmol) in methylene chloride was refluxed for 7 hours. After cooling to room temperature, the solvent was evaporated. The residue was purified through flash chromatography on silica gel (EtOAc:Hexanes=2:98) to give 4.2 g as colorless oil in 85% yield. 1HNMR (CD3Cl): δ 0.920 (t, J=7.4 Hz, 3H), 1.30 (m, 7H), 1.81 (s, 3H), 2.19 (t, J=7.4 Hz, 2H), 4.18 (q, J=7.4 Hz, 2H), 6.75 (t, J=7.4 Hz, 1H).

reactant | Valeraldehyde | 29.02 mmol, 2.5 g | C(CCCC)=O | C5H10O
reactant | (carbethoxyethylidene)triphenyl phosphorane | 34.83 mmol, 12.54 g | C(=O)(OCC)CC=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ethyl (2E)-2-methylhex-2-enoate | 85% yield | C/C(/C(=O)OCC)=C\CCC | C9H16O2
